US04268510
Methyl 4-amino-3-hydroxymethylbenzoate (1 g.) and anhydrous chloral (1 ml.) were mixed together, initially with external ice-cooling, and then on a steam bath for 5 minutes. The product was dissolved in ethyl acetate (100 ml.) and the solution was washed with water (50 ml.), then dried. The solvent was evaporated, and the residue was crystallized from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80 C.) to give methyl 1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine-6-carboxylate, m.p. 178°-179° C.

reactant | Methyl 4-amino-3-hydroxymethylbenzoate | 1 g | NC1=C(C=C(C(=O)OC)C=C1)CO | C9H11NO3
reactant | chloral | 1 ml | O=CC(Cl)(Cl)Cl | C2HCl3O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | methyl 1,2-dihydro-2-trichloromethyl-4H-benzo[d]-[1,3]-oxazine-6-carboxylate | ClC(C1OCC2=C(N1)C=CC(=C2)C(=O)OC)(Cl)Cl | C11H10Cl3NO3
